US05708008
5-(2-methylpropanoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 8.8 mg (0.10 mMol) isobutyric acid, 11.8 mg (79%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | isobutyric acid | 0.10 mMol, 8.8 mg | C(C(C)C)(=O)O | C4H8O2
product | 5-(2-methylpropanoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 11.8 mg, 79% | CC(C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)C | C18H25N3O
